2141-11-20 08:03:00 Physician Resident Progress Note
Chief Complaint: food impaction
   24 Hour Events:
 INVASIVE VENTILATION - START [**2141-11-19**] 06:30 PM
 ENDOSCOPY - At [**2141-11-19**] 07:00 PM
   -After EGD, pt on fentanyl, versed gtt's and assist/control vent
   settings
   Patient unable to provide history: Sedated
   Allergies:
   Codeine
   Nausea/Vomiting
   Morphine
   altered mental
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems:limited [**12-24**] pt sedation but c/o throat pain. No other
   pain on SOB
   Flowsheet Data as of  [**2141-11-20**] 08:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.9
C (98.4
   HR: 80 (80 - 84) bpm
   BP: 99/45(59) {99/40(57) - 145/72(84)} mmHg
   RR: 16 (11 - 26) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    594 mL
                                                                     16 mL
   PO:
             TF:
   IVF:
                                                                     23 mL
                                                                     16 mL
   Blood products:
                                                                    571 mL
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    594 mL
                                                                     16 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 23 cmH2O
   Plateau: 19 cmH2O
   SpO2: 99%
   ABG: ///34/
   Ve: 6.3 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Sedated, Tone: Not assessed
   Labs / Radiology
   137 K/uL
   10.1 g/dL
   58 mg/dL
   5.4 mg/dL
   34 mEq/L
   4.6 mEq/L
   37 mg/dL
   100 mEq/L
   147 mEq/L
   29.3 %
   4.9 K/uL
        [image002.jpg]
                            [**2141-11-20**]  05:17 AM
   WBC
   4.9
   Hct
   29.3
   Plt
   137
   Cr
   5.4
   Glucose
   58
   Other labs: PT / PTT / INR:28.6//2.9, Ca++:8.4 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
   A/P: 85M with CAD, CHF EF 20%, VT s/p ICD, ESRD on HD, p/w dysphagia.
   .
   # Dysphagia:  This is most likely [**12-24**] obstruction and food impaction in
   esophagus.  Pt is comfortable and handling his secretions; however,
   prolonged food impaction carries a significant risk of eroding the
   esophagus and may cause rupture.
   - GI aware, plan for upper endoscopy
   - NPO
   - given elevated INR will  give FFP peri-operatively
   - obtain T& S, crossmatch 2 units
   .
   # Pre-procedure risk evaluation: Given the food impaction and known
   prior aspiration/dysphagia (Dysphagia Outcome Severity Scale (DOSS)
   rating of 4, moderate dysphagia), this patient is at particular risk of
   aspiration and will need intubation. As far as I can see from OMR, the
   patient has not been formally diagnosed with primary pulmonary disease.
   He was a long-term smoker, quit 20 years ago. He did have PFT's in [**2137**]
   w/o any evidence of obstructive disease but showing mild restrictive
   ventilatory defect and reduced diffusing capacity suggesting an
   interstitial process and possible amiodarone toxicity. He has chronic
   effusions and is on 2L home O2 suggestive of underlying lung disease-
   both of which may complicate extubation.  However, he has never had
   symptoms from pulmonary disease and hospitalizations for respiratory
   distress have been largely related to aspiration and CHF.  In addition
   to the aspiration risk, patient has multiple cardiac comorbidities that
   place him at risk for peri-procedural MI. Having said that, endsocopy
   is a low risk procedure itself. At this time, he appears to be stable
   and at baseline from a cardiac and pulmonary perspective with stable
   effusion, no CHF exacerbation and no new hypoxia. Although the patient
   is moderate/high risk, the benefit of removing a food impaction
   urgently appears to out weight the risk of  aspiration and difficulty
   extubating.
   - proceed with EGD
   - ideally would give long acting perioperative beta-blocker but can
   consider short acting BB instead given NPO status.
   - discuss with anesthesia and family risk of difficulty with extubation
   .
   # ESRD on HD:
   - contact renal for HD
   .
   # CAD s/p multiple stents:  No active angina.  has been several years
   since the last stent, the patient has not been taking the aspirin since
   [**11-16**]
   - restart meds when can take PO
   .
   # H/o VT s/p ICD:
   - restart Mexiletine and BB when able to take PO's
   .
   # Chronic systolic HF:  currently euvolemic
   - restart metoprolol and lisinopril when able to take PO's
   .
   # anemia:  hct 34.7, has baseline anemia
   .
   # Hypothyroidism:
   - hold  levothyroxine  until taking Po
   .
   # Factor V leiden: INR supratherapeutic
   - hold coumadin and trend INR
   -                      give FFP peri-procedure, but will not reverse
   with vit K
   .
   FEN: NPO
   Access: PIV
   PPx: anticoagulated
   ICU Care
   Nutrition:
   NPO for now
   Glycemic Control:  Blood sugar well controlled
   Lines:
   18 Gauge - [**2141-11-19**] 04:30 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: Not indicated
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2141-11-21 07:56:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2141-11-20**] 09:18 AM
 NASAL SWAB - At [**2141-11-21**] 04:06 AM
   - Patient was extubated in the morning without sequelae.
   - Tolerated clears diet for lunch and dinner with no cough or N/V, was
   planned to receive dysphagia diet for breakfast in AM
   - Was dialyzed by nephrology
   - Restarted on all home meds aside from warfarin, which was held due to
   elevated INR to 2.9 on AM labs
   Patient denies CP, dyspnea. Has a new cough that is loose and
   occasionally productive. Patient reports that his cough started prior
   to hospitalization shortly after food got stuck in throat. Has had a
   sore throat ever since his EGD.
   Allergies:
   Codeine
   Nausea/Vomiting
   Morphine
   altered mental
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2141-11-20**] 12:02 PM
   Other medications:
   Flowsheet Data as of  [**2141-11-21**] 07:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.1
C (97
   HR: 80 (80 - 82) bpm
   BP: 107/47(61) {96/36(52) - 124/53(71)} mmHg
   RR: 21 (12 - 26) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                    496 mL
                  PO:
                                                                    480 mL
                  TF:
   IVF:
                                                                     16 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    496 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Physical Examination
   GEN: NAD
   HEENT: NC/AT, PERLL, EOMI, no LAD
   PULM: Right posterior lung field crackles to mid-lung, left basilar
   crackles. All crackles improve with cough
   CARD: RR, nl S1, nl S2, murmur difficult to assess as sound from
   fistula is heard throughout precordium
   ABD: BS+, soft, NT, ND
   EXT: no C/C/E, Right hand with petechial bruising
   NEURO: Patient alert and oriented x 3
   Labs / Radiology
   166 K/uL
   10.5 g/dL
   92 mg/dL
   3.2 mg/dL
   32 mEq/L
   4.3 mEq/L
   14 mg/dL
   101 mEq/L
   139 mEq/L
   30.9 %
   6.0 K/uL
        [image002.jpg]
                            [**2141-11-20**]  05:17 AM
                            [**2141-11-21**]  03:06 AM
   WBC
   4.9
   6.0
   Hct
   29.3
   30.9
   Plt
   137
   166
   Cr
   5.4
   3.2
   Glucose
   58
   92
   Other labs: PT / PTT / INR:30.6/47.4/3.1, Ca++:8.4 mg/dL, Mg++:1.6
   mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   85M with CAD, CHF EF 20%, VT s/p ICD, ESRD on HD, p/w dysphagia due to
   food impaction.
   # Dysphagia:
   S/P removal of food impaction by EGD on [**2141-11-19**]. Patient did well
   with clear liquid diet yesterday for lunch and dinner. Tolerated
   dysphagia soft breakfast this AM, though did not have much of an
   appetite. Reports some throat soreness that began after EGD and is
   improving without intervention.
   - pt to F/U with GI in 2 wks for clinic visit followed by possible
   repeat EGD
   -PPI daily
   # Cough:
   Patient with loose cough today that he reports has been ongoing prior
   to hospitalization. Is occasionally productive. Patient has been
   afebrile without leukocytosis.
   - CXR prior to discharge to assure that he has not developed imaging
   evidence of pneumonia since pre-EGD CXR.
   # ESRD on HD:
   Was dialyzed yesterday.
   # CAD s/p multiple stents:
   No active angina.  Has been several years since the last stent, the
   patient has not been taking the aspirin since [**11-16**] . Aspirin was
   restarted yesterday.
   # H/o VT s/p ICD:
   - Continue  Mexiletine and BB
   # Chronic systolic HF:  currently euvolemic
   - Continue  metoprolol and lisinopril
   # anemia:  Hct 30.9, has baseline anemia. No signs of active bleeding.
   # Hypothyroidism:
   - Continue  levothyroxine
   # Factor V leiden:
   INR supratherapeutic  to 3.1 today
   Hold coumadin today  and have repeat INR as outpatient tomorrow
   ICU Care
   Nutrition:
   Dysphagia diet
   Glycemic Control:
   Lines: 18 Gauge - [**2141-11-19**] 04:30 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Communication:  Comments:
   Code status: FULL
   Disposition: To home today following CXR read